US07365197B2
A mixture of 0.3 g (0.844 mmol) of 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-3H-benzo[g]quinazolin-4-one in 8 mL of phosphorus oxychloride and 1 mL of diethylaniline is refluxed for 15 minutes. After allowing to cool to room temperature, phosphorus oxychloride and diethylaniline are removed in vacuo. A 5 mL portion of toluene is added to the crude product mixture, and the solvents are again removed in vacuo. This step is repeated one more time. The product mixture is placed in an ice bath, and to this is added 10 mL of an ice-cooled solution of saturated sodium bicarbonate. This is extracted twice with a 95:5 mixture of methylene chloride/methanol, then with 1:1 tetrahydrofuran/ethyl acetate. The organic layers are combined, dried over magnesium sulfate and concentrated in vacuo. Purification by silica gel chromatography, eluting with a solvent gradient of 98:2 to 4:1 methylene chloride/methanol, provided 0.229 g of 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline as a yellow solid, mp 166-168° C.

reactant | 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-3H-benzo[g]quinazolin-4-one | 0.844 mmol, 0.3 g | COC=1C(=CC2=C(C=C3C(NC=NC3=C2)=O)C1)OCCN1CCOCC1 | C19H21N3O4
reactant | phosphorus oxychloride | 8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethylaniline | 1 mL | CCN(CC)C=1C=CC=CC1 | C10H15N
product | 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline | 0.229 g | ClC1=NC=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC | C19H20ClN3O3
